US07417060B2
To a solution of methyl 4-bromo-2-(isopropylamino)benzoate (433 mg) in 1,2-dimethoxyethane (6.5 ml) were added [4-[2-[benzyl(tert-butoxycarbonyl)amino]ethyl]phenyl]boronic acid (848 mg), tetrakis(triphenylphosphine)palladium (184 mg) and aqueous solution of sodium carbonate (2M, 3.5 ml), and the mixture was stirred at 70° C. for 2 hours under nitrogen. The mixture was diluted with ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=17/3) to give methyl 4′-[2-[benzyl(tert-butoxycarbonyl)amino]ethyl]-3-(isopropylamino)-4-biphenylcarboxylate (768 mg).

reactant | methyl 4-bromo-2-(isopropylamino)benzoate | 433 mg | BrC1=CC(=C(C(=O)OC)C=C1)NC(C)C | C11H14BrNO2
reactant | [4-[2-[benzyl(tert-butoxycarbonyl)amino]ethyl]phenyl]boronic acid | 848 mg | C(C1=CC=CC=C1)N(CCC1=CC=C(C=C1)B(O)O)C(=O)OC(C)(C)C | C20H26BNO4
reactant | sodium carbonate | 2M, 3.5 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 6.5 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 184 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4′-[2-[benzyl(tert-butoxycarbonyl)amino]ethyl]-3-(isopropylamino)-4-biphenylcarboxylate | 768 mg | C(C1=CC=CC=C1)N(CCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OC)NC(C)C)C(=O)OC(C)(C)C | C31H38N2O4
